US05134150
c) 5,6-bis(4-cyanophenyl)-2,3-dihydroimidazo[2,1-b]thiazole (Formula (I) compound)
A mixture of 3.8 g of 1-bromo-2-oxo-1,2-di(4-cyanophenyl)ethane, prepared as described above in part (b) and 3.8 g of 2-aminothiazoline in 70 ml of DMF was stirred at room temperature for 18 hours. The reaction mixture was diluted with cold water, and the precipitated product was filtered and dried in vacuum. The material was suspended in 200 ml of toluene, 125 mg of p-toluenesulfonic acid was added, and the mixture was refluxed for 2 hours with removal of water. After cooling, the crude product was filtered and recrystallized twice from acetic acid to afford the part (c) title compound, 1.3 g, m.p. 255°-260°; Analysis: C19H12N4S.0.5AcO; Theory; C 67.03%, H 3.91%, N 15.64%; found C: 67.03% H: 3.96%, N: 15.04%.

reactant | 1-bromo-2-oxo-1,2-di(4-cyanophenyl)ethane | 3.8 g | BrC(C(C1=CC=C(C=C1)C#N)=O)C1=CC=C(C=C1)C#N | C16H9BrN2O
reactant | 2-aminothiazoline | 3.8 g | NC=1SCCN1 | C3H6N2S
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5,6-bis(4-cyanophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(#N)C1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)C#N | C19H12N4S
